US09284308B2
Methyl 2-(4-(1H-pyrazol-1-yl)benzylidene)-3-oxopentanoate
A mixture containing methyl 3-oxopentanoate (2.2 g, 17 mmol), 4-(1H-pyrazol-1-yl)benzaldehyde (2.5 g, 14 mmol), piperidine (0.3 mL, 3.0 mmol), and acetic acid (0.16 mL, 2.8 mmol) in benzene (70 mL) was heated to 90° C. with removal of water (Dean-Stark trap). After 4 hours, the mixture was cooled to 23° C. and then concentrated to provide the title compound. The residue (mixture of alkene isomers) was taken onto the next step without further purification.

reactant | methyl 3-oxopentanoate | 17 mmol, 2.2 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | 4-(1H-pyrazol-1-yl)benzaldehyde | 14 mmol, 2.5 g | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | piperidine | 3.0 mmol, 0.3 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 2.8 mmol, 0.16 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Methyl 2-(4-(1H-pyrazol-1-yl)benzylidene)-3-oxopentanoate | N1(N=CC=C1)C1=CC=C(C=C(C(=O)OC)C(CC)=O)C=C1 | C16H16N2O3
